US06706709B2
A mixture of 5-hydroxy-1H-indole-2-carboxylic acid ethyl ester (2 g, 10 mmol), 2-chloro-N,N-dimethylacetamide (1.33 g, 11 mmol) and cesium carbonate (9.8 g, 30 mmol) ) in dimethylformamide (20 mL) was stirred at room temperature for 16 hours. The reaction was diluted with ethyl acetate (150 mL), washed with water (5×50 mL) and brine, dried and concentrated. The residue was recrystallized from ethyl acetate and hexane to give 1.4 g of 5-dimethylcarbamoylmethoxy-1H-indole-2-carboxylic acid ethyl ester as a brown solid.

reactant | 5-hydroxy-1H-indole-2-carboxylic acid ethyl ester | 10 mmol, 2 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)O | C11H11NO3
reactant | 2-chloro-N,N-dimethylacetamide | 11 mmol, 1.33 g | ClCC(=O)N(C)C | C4H8ClNO
reactant | cesium carbonate | 30 mmol, 9.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 5-dimethylcarbamoylmethoxy-1H-indole-2-carboxylic acid ethyl ester | 1.4 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)OCC(N(C)C)=O | C15H18N2O4
